US05519048
4,6-Dichloro-3-iodoindole-2-carboxylic acid, ethyl ester
Combine 4,6-dichloro-indole-2-carboxylic acid, ethyl ester (5.2 g, 20.0 mmol) and sodium hydroxide (0.80 g, 20 mmol) in ethanol (250 mL). Add iodine (5.1 g, 20.0 mmol) as a solution in ethanol (100 mL). After 1 hour, concentrate the reaction mixture in vacuo to obtain a residue. Dissolve the residue in ethyl acetate and extract with 1M hydrochloric acid solution and then with saturated sodium chloride solution. Dry the organic layer over magnesium sulfate and evaporate in vacuo. Chromatograph on silica gel eluting with 25% ethyl acetate/hexane. Combine the product containing fractions and evaporate in vacuo. Recrystallize form ethyl acetate/hexane to give the title compound as a solid; mp: 218°-220° C. Elem. Anal. calculated for C11H8Cl2INO2 : C, 34.41; H, 2.10; N, 3.65. Found: C, 34.67; H, 2.09; N, 3.68.

reactant | 4,6-dichloro-indole-2-carboxylic acid, ethyl ester | 20.0 mmol, 5.2 g | ClC1=C2C=C(NC2=CC(=C1)Cl)C(=O)OCC | C11H9Cl2NO2
reactant | sodium hydroxide | 20 mmol, 0.80 g | [OH-].[Na+]
reactant | iodine | 20.0 mmol, 5.1 g | II | I2
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,6-Dichloro-3-iodoindole-2-carboxylic acid, ethyl ester | ClC1=C2C(=C(NC2=CC(=C1)Cl)C(=O)OCC)I | C11H8Cl2INO2
